US04287195
A mixture of 5.3 parts of N-(2,2-dimethoxyethyl)-N'-[4-(4-methoxyphenyl)-1-piperazinyl]thiourea, 6 parts of iodomethane, 5 parts of acetic acid and 90 parts of ethyl acetate is stirred for 2 days at room temperature. Upon the addition of 2,2'-oxybispropane, the product is crystallized. It is filtered off and dried, yielding 6 parts (80%) of methyl N-(2,2-dimethoxyethyl)-N'-[4-(4-methoxyphenyl)-1-piperazinyl]carbamimidothioate monohydroiodide.

reactant | N-(2,2-dimethoxyethyl)-N'-[4-(4-methoxyphenyl)-1-piperazinyl]thiourea | COC(CNC(=S)NN1CCN(CC1)C1=CC=C(C=C1)OC)OC | C16H26N4O3S
reactant | iodomethane | IC | CH3I
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 2,2'-oxybispropane | O(C(C)C)C(C)C | C6H14O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl N-(2,2-dimethoxyethyl)-N'-[4-(4-methoxyphenyl)-1-piperazinyl]carbamimidothioate monohydroiodide | 80% | I.COC(CNC(=NN1CCN(CC1)C1=CC=C(C=C1)OC)SC)OC | InChI=1S/C17H28N4O3S.HI/c1-22-15-7-5-14(6-8-15)20-9-11-21(12-10-20)19-17(25-4)18-13-16(23-2)24-3;/h5-8,16H,9-13H2,1-4H3,(H,18,19);1H
